US07087601B2
To 7 mL trimethylsilyl polyphosphate was added 2-amino-6-fluorophenol (166 mg, 1.31 mmol) and 3-methoxy-4-pyridin-2-ylbenzoic acid (300 mg, 1.31 mmol). The mixture was heated at 200° C. for 2 h, quenched over ice, and made basic (pH 14) with 1N NaOH. The aqueous phase was extracted with EtOAc (3×150 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The resultant oil was taken up in ether and reconcentrated to give a tan solid. The free base was dissolved in ether and HCl (1N in ether) was added. The solution was filtered to give 7-fluoro-2-(3-methoxy-4-pyridin-2-ylphenyl)-1,3-benzoxazole hydrochloride as a yellow solid. 1H NMR (DMSO-d6, 300 MHz) δ 8.71 (d, 1H), 8.00 (t, 1H), 7.97–7.84 (m, 4H), 7.70 (d, 1H), 7.49–7.37 (m, 3H), 4.00 (s, 3H); MS (ESI) 321 (M+H)+.

reactant | trimethylsilyl polyphosphate | 7 mL | C[Si](C)(C)OP(=O)=O | C3H9O3PSi
reactant | 2-amino-6-fluorophenol | 1.31 mmol, 166 mg | NC1=C(C(=CC=C1)F)O | C6H6FNO
reactant | 3-methoxy-4-pyridin-2-ylbenzoic acid | 1.31 mmol, 300 mg | COC=1C=C(C(=O)O)C=CC1C1=NC=CC=C1 | C13H11NO3
reactant | HCl | 1N | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 7-fluoro-2-(3-methoxy-4-pyridin-2-ylphenyl)-1,3-benzoxazole hydrochloride | Cl.FC1=CC=CC=2N=C(OC21)C2=CC(=C(C=C2)C2=NC=CC=C2)OC | InChI=1S/C19H13FN2O2.ClH/c1-23-17-11-12(8-9-13(17)15-6-2-3-10-21-15)19-22-16-7-4-5-14(20)18(16)24-19;/h2-11H,1H3;1H
